US04139555
Preparation of Benzalaminoguanidine
160 g aminoguanidine bicarbonate are suspended in 1.1 1 water and brought into solution by means of 93-100 ml concentrated hydrochloric acid. 124.5 g benzaldehyde added at room temperature and 340 g of 50% strength potassium hydroxide solution are then allowed to run in. In the course thereof, the temperature rises to about 35°. Stirring is continued for a further hour, the mixture is cooled to 5° C. and the precipitate is filtered off and rinsed with 0.5 l water.

reactant | aminoguanidine bicarbonate | 160 g | C(O)(O)=O.NNC(=N)N
reactant | hydrochloric acid | 93-100 ml | Cl | ClH
reactant | benzaldehyde | 124.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | Benzalaminoguanidine | C(C1=CC=CC=C1)=NNC(=N)N | C8H10N4
